US09326987B2
Methyl 6-bromo-1H-indazole-4-carboxylate
Concentrated hydrochloric acid (46.9 ml, 1543 mmol) was added to a stirred suspension of 6-bromo-1H-indazole-4-carboxylic acid (4.65 g, 19.29 mmol, available from Sinova) in methanol (100 ml) and the reaction mixture was heated to 70° C. for 18 h. The reaction mixture was allowed to cool to RT resulting in the precipitation of a solid. The mixture was cooled in ice and the yellow precipitate filtered off and washed with methanol to give the title compound as a yellow solid (2.54 g).

reactant | hydrochloric acid | 1543 mmol, 46.9 ml | Cl | ClH
reactant | 6-bromo-1H-indazole-4-carboxylic acid | 19.29 mmol, 4.65 g | BrC=1C=C(C=2C=NNC2C1)C(=O)O | C8H5BrN2O2
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 6-bromo-1H-indazole-4-carboxylate | 2.54 g | BrC=1C=C(C=2C=NNC2C1)C(=O)OC | C9H7BrN2O2
